US07129238B2
A solution of (RS)-[2,6-difluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-ethoxy-acetic acid ethyl ester in 1,2-dimethoxyethane was treated with 2-amino-5-bromopyridine and CsF. The reaction mixture was deoxygenated by passing a stream of argon through it. Tetrakis(triphenylphosphine)palladium(0) was added. The reaction mixture was heated to 80° for 2 days, then cooled to rt and concentrated. The crude product was isolated by flash chromatography (cyclohexane/EtOAc 2:1=>EtOAc) to give (RS)-[4-(6-amino-pyridin-3-yl)-2,6-difluoro-phenyl]-ethoxy-acetic acid ethyl ester as amorphous brown solid.

reactant | (RS)-[2,6-difluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-ethoxy-acetic acid ethyl ester | C(C)OC(C(OCC)C1=C(C=C(C=C1F)B1OC(C(O1)(C)C)(C)C)F)=O | C18H25BF2O5
reactant | 2-amino-5-bromopyridine | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | CsF | [F-].[Cs+]
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | (RS)-[4-(6-amino-pyridin-3-yl)-2,6-difluoro-phenyl]-ethoxy-acetic acid ethyl ester | C(C)OC(C(OCC)C1=C(C=C(C=C1F)C=1C=NC(=CC1)N)F)=O | C17H18F2N2O3
